US07935725B2
(S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-methoxy-ethanone
To a stirred solution of (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride (144 mg, 0.35 mmol) and Et3N (200 μL, 1.4 mmol) in CH2Cl2 (15 mL) at rt was added methoxyacetyl chloride (50 μL, 0.53 mmol). After 18 h at rt, the reaction mixture was partitioned between CH2Cl2 (150 mL) and satd. aq. NaHCO3 (50 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 5% CH3OH in CH2Cl2) afforded the title compound as a viscous, colorless oil (127 mg, 89%). MS (ESI): mass calcd. for C22H23N3O3S, 409.15; m/z found, 410.2 [M+H]+. 1H NMR (500 MHz, CDCl3, mixture of rotamers): 7.74 (d, J=7.5 Hz, 1H), 7.67 (d, J=7.7 Hz, 1H), 7.40 (m, 3H), 7.30 (m, 3H), 4.83 (br m, 0.5H), 4.46 (br m, 0.5H), 4.06 (m, 1H), 4.01 (s, 1H), 3.76 (m, 2.5H), 3.63 (br d, J=9.3 Hz, 0.5H), 3.58 (br s, 1H), 3.45 (s, 1.5H), 3.43 (s, 1.5H), 3.35 (br d, J=2.1 Hz, 0.5H), 3.33 (m, 0.5H), 3.01 (dd, J=9.9, 2.3 Hz, 0.5H), 2.87 (dd, J=9.8, 2.2 Hz, 0.5H), 2.78 (br d, J=9.9 Hz, 0.5H), 2.58 (d, J=9.5 Hz, 0.5H), 1.99 (br d, J=9.3 Hz, 0.5H), 1.96 (br d, J=9.8 Hz, 0.5H), 1.76 (br d, J=10.0 Hz, 0.5H), 1.66 (br d, J=10.0 Hz, 0.5H).

reactant | (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 0.35 mmol, 144 mg | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | Et3N | 1.4 mmol, 200 μL | CCN(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 0.53 mmol, 50 μL | COCC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-methoxy-ethanone | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(COC)=O)C=C2 | C22H23N3O3S
